US08835472B2
4-(2-Amino-propyl)-phenol
5.80 g (20.0 mmol) 4-[2-(1-phenyl-ethylamino)-propyl]-phenol (I37) are added to 300 mL MeOH and charged with 0.60 g palladiumhydroxide (20%) on activated carbon. The mixture is stirred in a hydrogen atmosphere (50 psi) at 50° C. for 1 h 15 min. Then the mixture is filtrated, the solvent is removed in vacuo and the residue is triturated diethylether. The residue is dried at 80° C. in vacuo.

reactant | 4-[2-(1-phenyl-ethylamino)-propyl]-phenol | 20.0 mmol, 5.80 g | C1(=CC=CC=C1)C(C)NC(CC1=CC=C(C=C1)O)C | C17H21NO
reactant | hydrogen | [H][H] | H2
catalyst | palladiumhydroxide | 0.60 g | [OH-].[Pd+2].[OH-]
solvent | MeOH | 300 mL | CO | CH4O
product | 4-(2-Amino-propyl)-phenol | NC(CC1=CC=C(C=C1)O)C | C9H13NO
